US04442115
A solution of 2-hydroxy-3-nitroacetophenone [4.0 g; prepared by the method of Allen et al., J. Chem. Soc., (1949), 821] in ethanol (150 ml) was hydrogenated at 25° C. and 50 p.s.i. for 2.5 hours, using a catalyst of platinum on charcoal. The mixture was filtered and the filtrate was evaporated in vacuo to give a black solid, which was purified by chromatography on a column of silica gel, using diethyl ether as eluant. The fastest moving band (yellow) was collected to give 3-amino-2-hydroxyacetophenone (3.0 g), in the form of a bright yellow solid, m.p. 95°-97° C.

reactant | 2-hydroxy-3-nitroacetophenone | CC(=O)C1=C(C(=CC=C1)[N+](=O)[O-])O | C8H7NO4
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | platinum on charcoal | [Pt] | Pt
product | 3-amino-2-hydroxyacetophenone | 3.0 g | CC(=O)C1=C(C(=CC=C1)N)O | C8H9NO2
